US08563575B2
The mixture of ethyl 2-chloroimidazo[1,2-a]pyridine-3-carboxylate (220 mg), NaH (70 mg) and 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (255 mg) in DMF (2 mL) was stirred at 100° C. under a dry atmosphere (CaCl2 tube) for 1 h. The mixture was diluted with MeOH and concentrated under reduced pressure. The residue was purified by column chromatography (NH silica gel, eluted with 0%-30% EtOAc in hexane) to give 1-ethyl-3-[4-(imidazo[1,2-a]pyridin-2-yloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (40 mg) as white crystals.

reactant | ethyl 2-chloroimidazo[1,2-a]pyridine-3-carboxylate | 220 mg | ClC=1N=C2N(C=CC=C2)C1C(=O)OCC | C10H9ClN2O2
reactant | NaH | 70 mg | [H-].[Na+]
reactant | 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 255 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)O)=O | C14H13N3O2
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-ethyl-3-[4-(imidazo[1,2-a]pyridin-2-yloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 40 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC=2N=C1N(C=CC=C1)C2)=O | C21H17N5O2
